US06768023B2
Cyclopentane (1 ml), t-butyl nitrite (1 mmol), N-hydroxyphthalimide (0.2 mmol), and acetic acid (1 ml) were placed in a flask and were stirred at 80° C. in an atmosphere of argon gas (1 atm=0.101 MPa) for 20 hours. The resulting reaction mixture was analyzed to find that cyclopentanone oxime, nitrocyclopentane, cyclopentanone, and cyclopentyl acetate were formed in yields of 4%, 2%, 3%, and less than 1%, respectively.

reactant | t-butyl nitrite | 1 mmol | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-hydroxyphthalimide | 0.2 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | cyclopentanone oxime | C1(CCCC1)=NO | C5H9NO
reactant | nitrocyclopentane | [N+](=O)([O-])C1CCCC1 | C5H9NO2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | Cyclopentane | 1 ml | C1CCCC1 | C5H10
product | cyclopentyl acetate | C(C)(=O)OC1CCCC1 | C7H12O2
